US07011838B2
Using 0.20 g of (4-(trifluoromethoxy)benzyl)malononitrile, 5 ml of N,N-dimethylformamide, 50 mg of sodium hydride (60% in oil), and 0.46 g of 1,1,3-tribromopropene, and according to the process described in the Production Example 1, there was obtained 0.16 g of 2-(3,3-dibromo-2-propenyl)-2-(4-(trifluoromethoxy)benzyl)malononitrile (the present compound (29)).

reactant | (4-(trifluoromethoxy)benzyl)malononitrile | 0.20 g | FC(OC1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2O
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | 1,1,3-tribromopropene | 0.46 g | BrC(=CCBr)Br | C3H3Br3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(3,3-dibromo-2-propenyl)-2-(4-(trifluoromethoxy)benzyl)malononitrile | 0.16 g, Yield: 44% | BrC(=CCC(C#N)(C#N)CC1=CC=C(C=C1)OC(F)(F)F)Br | C14H9Br2F3N2O
